US07875606B2
3.4 g (42.3 mmoles) of sodium hydrosulfide hydrate (purity: 70%) was added into a solution of 4.6 g (21.6 mmoles) of 3-methylsulfonyl-5-chloromethyl-5-methyl-2-isoxazoline dissolved in 70 ml of DMF. The mixture was stirred for 2 hours. Then, there were added 3.0 g (21.6 mmoles) of potassium carbonate, 3.3 g (21.6 mmoles) of Rongalit and 5-bromomethyl-4-ethoxy-6-trifluoromethylpyrimidine. The mixture was stirred at room temperature for 21 hours to give rise to a reaction. After the completion of the reaction, the reaction mixture was poured into water and extraction with ethyl acetate was conducted. The resulting organic layer was washed with an aqueous sodium chloride solution, followed by drying over anhydrous magnesium sulfate. The resulting solution was subjected to reduced pressure distillation to remove the solvent contained therein. The residue was purified by silica gel column chromatography (solvent system: hexane-ethyl acetate) to obtain 1.9 g (yield: 30.3%) of 3-(4-ethoxy-6-trifluoromethylpyrimidin-5-ylmethylthio)-5-chloromethyl-5-methyl-2-isoxazoline.

reactant | sodium hydrosulfide hydrate | 42.3 mmoles, 3.4 g | O.[SH-].[Na+]
reactant | 3-methylsulfonyl-5-chloromethyl-5-methyl-2-isoxazoline | 21.6 mmoles, 4.6 g | CS(=O)(=O)C1=NOC(C1)(C)CCl | C6H10ClNO3S
reactant | potassium carbonate | 21.6 mmoles, 3.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | Rongalit | 21.6 mmoles, 3.3 g | C(O)S(=O)[O-].[Na+]
reactant | 5-bromomethyl-4-ethoxy-6-trifluoromethylpyrimidine | BrCC=1C(=NC=NC1C(F)(F)F)OCC | C8H8BrF3N2O
solvent | DMF | 70 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 3-(4-ethoxy-6-trifluoromethylpyrimidin-5-ylmethylthio)-5-chloromethyl-5-methyl-2-isoxazoline | 1.9 g, yield: 30.3% | C(C)OC1=NC=NC(=C1CSC1=NOC(C1)(C)CCl)C(F)(F)F | C13H15ClF3N3O2S
